US06936608B2
a) 2′-Fluorobiphenyl-2-carbonitrile
A mixture of 2-bromobenzonitrile (5.1 g, 28 mmol), 2-fluorobenzeneboronic acid (4.9 g, 35 mmol) and potassium fluoride (5.37 g, 92 mmol) in THF (50 ml) was degassed with nitrogen for 10 min. This mixture was then treated with tris(dibenzylideneacetone)dipalladium(0) (510 mg, 0.56 mmol) followed by tri-tert-butylphosphine (5.6 ml of a 0.2 M solution in 1,4-dioxane, 1.12 mmol) and the reaction was stirred at ambient temperature for 15 min. The resulting slurry was then heated at 50° C. for 30 min in order to consume remaining starting materials and then cooled to ambient temperature. The reaction mixture was filtered, washing the filter-cake with tetrahydrofuran (50 ml). The filtrate was evaporated to dryness and the residue partitioned between ethyl acetate and water. The organics were washed with brine, dried over anhydrous magnesium sulfate, filtered and pre-adsorbed onto silica. Purification by chromatography (silica gel, 5-10% EtOAc/isohexane) gave 5.5 g (100%) of the title compound as a pale yellow solid: 1H NMR (360 MHz, CDCl3) δ 7.19-7.29 (2H, m), 7.40-7.52 (4H, m), 7.65 (1H, ddd, J 8, 8, 1 Hz), 7.79 (1H, dd, J 8, 1 Hz).

reactant | 2-bromobenzonitrile | 28 mmol, 5.1 g | BrC1=C(C#N)C=CC=C1 | C7H4BrN
reactant | 2-fluorobenzeneboronic acid | 35 mmol, 4.9 g | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | potassium fluoride | 92 mmol, 5.37 g | [F-].[K+]
reactant | tri-tert-butylphosphine | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.56 mmol, 510 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2′-Fluorobiphenyl-2-carbonitrile | 5.5 g, 100% | FC1=C(C=CC=C1)C=1C(=CC=CC1)C#N | C13H8FN
